US05081091
Example 1--Preparation of 1,6-bis(9-trimethylsilylcarbazol-2-yloxy)hexane (E.1)
To a solution of 1,6-bis(carbazol-2-yloxy)hexane (30 g) in dry THF (200 ml) was added butyllithium (56 ml; 1.6M in hexane). Once the butyllithium addition was completed, the solution was heated to reflux for 1.5 hours and then allowed to cool. Chlorotrimethylsilane (12 ml) was added dropwise to the cooled mixture and then heated to reflux for 4 hours. Toluene (150 ml) was added to the cool mixture which was then filtered to remove LiC1. The filtrate was collected and the solvent removed under vacuum leaving a crude gray compound. The crude product was further purified by vacuum distillation to give a white compound (E.1) in an 84% yield.

reactant | 1,6-bis(carbazol-2-yloxy)hexane | 30 g | C1=C(C=CC=2C3=CC=CC=C3NC12)OCCCCCCOC1=CC=2NC3=CC=CC=C3C2C=C1 | C30H28N2O2
reactant | butyllithium | 1.6M, 56 ml | C(CCC)[Li]
reactant | Chlorotrimethylsilane | 12 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | Toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1,6-bis(9-trimethylsilylcarbazol-2-yloxy)hexane | 84% yield | C[Si](N1C2=CC=CC=C2C=2C=CC(=CC12)OCCCCCCOC1=CC=2N(C3=CC=CC=C3C2C=C1)[Si](C)(C)C)(C)C | C36H44N2O2Si2
